US05025025
A mixture of 7.36 g (24 mmol) 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne, 100 mL ethanol and 0.74 g 10% palladium on charcoal is hydrogenated in a Parr apparatus at 3 atmospheres pressure and room temperature for 8 hours. The catalyst is filtered off and washed with ethanol. The combined filtrate is evaporated to give 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane; NMR (CDCl3) delta 4.4 (brs,1H), 2.67 (t,2H).

reactant | 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne | 24 mmol, 7.36 g | N1=CC(=CC=C1)C#CCC(CCCCOC1OCCCC1)O | C18H25NO3
catalyst | palladium on charcoal | 0.74 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-hydroxy-8-(3-pyridyl)-1-(2-tetrahydropyranyloxy)-octane | OC(CCCCOC1OCCCC1)CCCC=1C=NC=CC1 | C18H29NO3
